US07176242B2
N-((1S,2R)-1-(3,5-Difluorobenzyl)-3-{[1-(3-ethylphenyl)cyclopropyl]amino}-2-hydroxypropyl)-3-{[isopentyl(methyl)amino]methyl}-5-methylbenzamide dihydrochloride
To methyl 3-{[isopentyl(methyl)amino]methyl}-5-methylbenzoate prepared by the method in EXAMPLE SP-211, Step 1 (160 mg, 0.61 mmol) in tetrahydrofuran/methanol/water (2:1:1, 8 mL) is added lithium hydroxide monohydrate (51 mg, 1.2 mmol), and the reaction is stirred at room temperature 16 h. The solution is concentrated under reduced pressure, redissolved in DMF (5 mL), and diisopropylethylamine (424 μL, 2.4 mmol), HATU (290 mg, 0.8 mmol), and (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-{[1-(3-ethylphenyl)cyclopropyl]amino}-3-methylbutan-2-ol dihydrochloride prepared by the method in EXAMPLE SP-272 (291 mg, 0.7 mmol) are added. The reaction stirred at room temperature 2 h. The reaction mixture is diluted with ethyl acetate, washed with water, saturated sodium bicarbonate, brine, dried (sodium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 8% methanol/methylene chloride) provides the title compound as the free base. The residue is dissolved in diethyl ether (3 mL) and 1N hydrochloric acid in diethyl ether (2 mL) is added. The mixture is concentrated under reduced pressure to yield the title compound. ESI MS m/z 592.3 [M+H]+.

reactant | methyl 3-{[isopentyl(methyl)amino]methyl}-5-methylbenzoate | C(CC(C)C)N(C)CC=1C=C(C(=O)OC)C=C(C1)C | C16H25NO2
reactant | SP-211 | CC[C@H](C)[C@@H](C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CCC(=O)N)C(=O)N)NC(=O)[C@@H]1CCCN1C(=O)[C@H](CC2=CC=C(C=C2)O)NC(=O)[C@H](CC(=O)N)NC(=O)[C@H](CCC(=O)N)NC(=O)[C@H](CO)NC(=O)[C@H](C(C)C)N | C47H75N13O14
reactant | lithium hydroxide monohydrate | 1.2 mmol, 51 mg | O.[OH-].[Li+]
reactant | diisopropylethylamine | 2.4 mmol, 424 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 0.8 mmol, 290 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-{[1-(3-ethylphenyl)cyclopropyl]amino}-3-methylbutan-2-ol dihydrochloride | Cl.Cl.N[C@]([C@@H](CNC1(CC1)C1=CC(=CC=C1)CC)O)(CC1=CC(=CC(=C1)F)F)C
solvent | tetrahydrofuran methanol water | 8 mL | O1CCCC1.CO.O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-((1S,2R)-1-(3,5-Difluorobenzyl)-3-{[1-(3-ethylphenyl)cyclopropyl]amino}-2-hydroxypropyl)-3-{[isopentyl(methyl)amino]methyl}-5-methylbenzamide dihydrochloride | Cl.Cl.FC=1C=C(C[C@@H]([C@@H](CNC2(CC2)C2=CC(=CC=C2)CC)O)NC(C2=CC(=CC(=C2)C)CN(C)CCC(C)C)=O)C=C(C1)F | InChI=1S/C36H47F2N3O2.2ClH/c1-6-26-8-7-9-30(17-26)36(11-12-36)39-22-34(42)33(20-27-18-31(37)21-32(38)19-27)40-35(43)29-15-25(4)14-28(16-29)23-41(5)13-10-24(2)3;;/h7-9,14-19,21,24,33-34,39,42H,6,10-13,20,22-23H2,1-5H3,(H,40,43);2*1H/t33-,34+;;/m0../s1
